US04857542
An amount of 1.80 g of 1-(2-methoxyphenyl)-3-methyl-2-pyrazolin-5-one was added into a mixture of 18 ml of 47% hydrobromic acid and 18 ml of acetic acid, and the mixture were refluxed under stirring for 6.5 hours. After evaporation of the solvent, an aqueous NaHCO3 solution was added to the residue to adjust to pH 4 and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated, followed by recrystallization of the residue from ethanol to give 1.19 g of 1-(2-hydroxyphenyl)-3-methyl-2-pyrazolin-5-one (Compound No. 44) as colorless crystals.

reactant | 1-(2-methoxyphenyl)-3-methyl-2-pyrazolin-5-one | 1.80 g | COC1=C(C=CC=C1)N1N=C(CC1=O)C | C11H12N2O2
reactant | hydrobromic acid | 18 ml | Br | BrH
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
product | 1-(2-hydroxyphenyl)-3-methyl-2-pyrazolin-5-one | 1.19 g, Yield 67% | OC1=C(C=CC=C1)N1N=C(CC1=O)C | C10H10N2O2
